US06586616B1
To a 2 l of three-necked flask equipped with reflux condenser, thermometer and mechanical stirrer were charged (S)-3-hydroxy-γ-butyrolactone (102 g) and 30% of hydrobromic acid in acetic acid (675 g, 2.5 eq.). The mixture was stirred at 40° C. for 3 hours. After cooling the reaction mixture, methylene chloride (1000 ml) was added to it. The reaction mixture was washed with aqueous solution of sodium acetate. The organic layer was separated, dried over magnesium sulfate, and concentrated to afford (S)-3-acetoxy-4-bromobutyric acid (213 g, 95%).

reactant | (S)-3-hydroxy-γ-butyrolactone | 102 g | O[C@H]1CC(=O)OC1 | C4H6O3
reactant | hydrobromic acid | Br | BrH
reactant | acetic acid | 675 g, 2.5 eq. | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 1000 ml | C(Cl)Cl | CH2Cl2
product | (S)-3-acetoxy-4-bromobutyric acid | 213 g, 95% | C(C)(=O)O[C@@H](CC(=O)O)CBr | C6H9BrO4
